US06255301B1
(i) Ethyl 3,5-dimethoxyphenylacetate
A solution of 3,5-dimethoxyphenylacetic acid (2.0 g; 10 mmol) and H2SO4 (conc.; 0.2 mL) in EtOH (50 mL) was refluxed overnight. The solution was concentrated, and the resultant material was dissolved in aqueous NaOH (1M). After extraction with ether (2×75 mL), washing of the combined organic phase with brine, drying (Na2SO4) and evaporating, 2.0 g (88%) of the sub-title compound was obtained.

reactant | 3,5-dimethoxyphenylacetic acid | 10 mmol, 2.0 g | COC=1C=C(C=C(C1)OC)CC(=O)O | C10H12O4
reactant | H2SO4 | 0.2 mL | OS(=O)(=O)O | H2O4S
reactant | EtOH | 50 mL | CCO | C2H6O
product | Ethyl 3,5-dimethoxyphenylacetate | 2.0 g, 88% | COC=1C=C(C=C(C1)OC)CC(=O)OCC | C12H16O4
